Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
4.3cm asymptomatic, incidentally discovered AAA and 2.2cm right 
iliac artery ectasia
 
Major Surgical or Invasive Procedure:
Endovascular aortic aneurysm repair and right iliac branch 
endoprosthesis

 
History of Present Illness:
___ h/o HLD, COPD, DMII, afib on warfarin, w/ 4.3cm 
asymptomatic, incidentally discovered AAA and 2.2cm right iliac 
artery ectasia, here for EVAR
 
Past Medical History:
PMH: 4.3cm asymptomatic, incidentally discovered AAA and 2.2cm
right iliac artery ectasia, Hepatitis A, tobacco use, HLD, COPD,
AFib (on warfarin), DM

PSH: Repair of complex right lower extremity fracture (___),
anal fistulotomy ___
 
Social History:
___
Family History:
No family h/o aneurysms
 
Physical Exam:
Admission Physical Exam:
Vitals: T97.4 HR76 BP126/86 RR18 99% RA 
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, nondistended, nontender, no rebound or guarding,
normoactive bowel sounds, no palpable masses, cannot appreciate
aneurysm 
Ext: No ___ edema, ___ warm and well perfused
L:p//p/p   R:p//p/p

Discharge Physical Exam:
General: Well appearing, non cachectic
___: RRR
Pulm: no respiratory distress, no crackles
Abdomen: Soft, NT, ND, 
Ext: warm, no edema
Vascular Exam: 
all palp except dopplerable L ___
Incision/angiogram access site: soft, no evidence of hematoma
 
Pertinent Results:
___ 10:10PM   WBC-8.8 RBC-4.20* HGB-13.1* HCT-38.9* MCV-93 
MCH-31.2 MCHC-33.7 RDW-13.3 RDWSD-45.1
___ 10:10PM   GLUCOSE-124* UREA N-14 CREAT-0.9 SODIUM-139 
POTASSIUM-4.1 CHLORIDE-103 TOTAL CO2-24 ANION GAP-12
___ 10:10PM   CALCIUM-8.2* PHOSPHATE-3.1 MAGNESIUM-1.___ w/ 4.3cm asymptomatic, incidentally discovered AAA and 2.2cm 
right iliac artery ectasia, admitted after EVAR with right iliac 
endoprosthesis on ___. Procedure was uncomplicated, for 
full details of the procedure please see the operative report. 
Patient was taken to the PACU in stable condition, patient 
remained hemodynamically stable and neurologically intact in the 
PACU, he was then transferred to the floor. Patient continued to 
remain well on the floor, tolerating a regular diet, ambulating 
independently, and voided. Patient's pain was well-controlled, 
he is ready for discharge home w/ ___ services for groin and INR 
checks. He will follow-up with Dr. ___ in 1 month for CTA. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Digoxin 0.375 mg PO DAILY 
2. Metoprolol Tartrate 100 mg PO BID 
3. Simvastatin 10 mg PO QPM 
___  MD to order daily dose PO DAILY16 
5. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*2 
3.  Docusate Sodium 100 mg PO BID  
4.  OxyCODONE (Immediate Release) ___ mg PO Q6H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Patient is NPO or unable to 
tolerate PO
RX *oxycodone [Oxaydo] 5 mg 1 tablet(s) by mouth every six (6) 
hours Disp #*5 Tablet Refills:*0 
5.  Digoxin 0.375 mg PO DAILY  
6.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID  
7.  Metoprolol Tartrate 100 mg PO BID  
8.  Warfarin ___  mg PO DAILY16  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
4.9cm asymptomatic, incidentally discovered AAA and 2.2cm right 
iliac artery ectasia
afib on warfarin
HLD, COPD, DMII

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of you here at ___. You 
underwent an Endovascular repair of abdominal aortic aneurysm. 
You have now recovered and are ready for discharge home with 
services. Please follow the below instructions for a safe and 
speedy recovery:

Endovascular Abdominal Aortic Aneurysm (AAA) Discharge 
Instructions

MEDICATIONS:
• Take Aspirin 81mg (enteric coated) once daily 
• Do not stop Aspirin unless your Vascular Surgeon instructs you 
to do so. 
• Continue all other medications you were taking before surgery, 
unless otherwise directed
• You make take Tylenol or prescribed pain medications for any 
post procedure pain or discomfort

WHAT TO EXPECT AT HOME:
It is normal to have slight swelling of the legs:
• Elevate your leg above the level of your heart (use ___ 
pillows or a recliner) every ___ hours throughout the day and at 
night
• Avoid prolonged periods of standing or sitting without your 
legs elevated
It is normal to feel tired and have a decreased appetite, your 
appetite will return with time 
• Drink plenty of fluids and eat small frequent meals
• It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
• To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

ACTIVITIES:
• When you go home, you may walk and go up and down stairs
• You may shower (let the soapy water run over groin incision, 
rinse and pat dry)
• Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing or 
band aid over the area that is draining, as needed
• No heavy lifting, pushing or pulling (greater than 5 lbs) for 
1 week (to allow groin puncture to heal)
• After 1 week, you may resume sexual activity
• After 1 week, gradually increase your activities and distance 
walked as you can tolerate
• No driving until you are no longer taking pain medications

CALL THE OFFICE FOR: ___
• Numbness, coldness or pain in lower extremities 
• Temperature greater than 101.5F for 24 hours
• New or increased drainage from incision or white, yellow or 
green drainage from incisions
• Bleeding from groin puncture site

FOR SUDDEN, SEVERE BLEEDING OR SWELLING (Groin puncture site or 
incision)
• Lie down, keep leg straight and have someone apply firm 
pressure to area for 10 minutes. If bleeding stops, call 
vascular office. If bleeding does not stop, call ___ for 
transfer to closest Emergency Room. 

 
Followup Instructions:
___